* D:\Misc\TTGO-HiGrow\electronics\soil_current_analysis.asc
V1 N003 0 PULSE(-3.3 3.3 0 0 0 0.00032 0.00064 10000)
XU1 0 N002 N001 N005 N004 AD8038
V2 N005 0 -3.3
V3 N001 0 3.3
R1 N002 N003 51k
R2 N004 N002 2k
R3 NC_01 N004 1k
.tran 0.01
.lib ADI.lib
.backanno
.end
